US04381407
When the reaction is performed correctly, the reaction product contains only traces of glycerol, monoacetin, diacetin and water, so that the OH number normally lies below 1. Pure triacetin can be obtained readily by distillation in a rectification column of the obtained crude product, since, at atmospheric pressure, acetic acid boils at about 118° C., acetic acid anhydride boils at about 140° C., and glyceryl triacetate (triacetin) boils at about 258° C. Any catalyst that may still be present remains in the distillation residue.

reactant | glycerol | OCC(O)CO | C3H8O3
reactant | monoacetin | CC(=O)OCC(CO)O | C5H10O4
reactant | diacetin | CC(=O)OCC(CO)OC(=O)C | C7H12O5
solvent | water | O | H2O
product | triacetin | CC(OCC(OC(C)=O)COC(C)=O)=O | C9H14O6
